US08039460B2
tert-Butyl (6S,9R)-3-[cyclopropyl(hydroxy)methyl]-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Cyclopropylmagnesium bromide (0.5 M in tetrahydrofuran; 1.53 mL, 0.77 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-formyl-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (60 mg, 0.15 mmol) in tetrahydrofuran (1 mL) at 0° C. After 30 min, the reaction was quenched with water and the mixture was extracted with dichloromethane (3×). The organic layer was washed with water, saturated brine, dried over magnesium sulfate, filtered and concentrated. MS 434.2 (M+1).

reactant | Cyclopropylmagnesium bromide | 0.77 mmol, 0.5 M, 1.53 mL | C1(CC1)[Mg]Br
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-formyl-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.15 mmol, 60 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C=O)NC(OC(C)(C)C)=O | C20H23F2N3O3
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | tert-Butyl (6S,9R)-3-[cyclopropyl(hydroxy)methyl]-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | C1(CC1)C(C1=CN=C2N1C[C@@H](CC[C@H]2NC(OC(C)(C)C)=O)C2=C(C(=CC=C2)F)F)O | C23H29F2N3O3
